US08053457B2
(4-Pyridin-2-ylmethyl-piperazin-1-yl)-acetonitrile
The title compound is synthesized by coupling of 1-Pyridin-2-ylmethyl-piperazine (commercially available from CHESS GmbH) and bromoacetonitrile analogously to the preparation of Intermediate 149.2 as a brown solid; ES-MS: M+=217.2: 1HNMR(DMSO-d6) 8.45 (dd, 1H), 7.75 (td, 1H), 7.40 (d, 1H), 7.25-7.20 (m, 1H), 3.70 (s, 2H), 3.60 (s, 2H), 2.50-2.35 (m, 8H).

reactant | 1-Pyridin-2-ylmethyl-piperazine | N1=C(C=CC=C1)CN1CCNCC1 | C10H15N3
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | (4-Pyridin-2-ylmethyl-piperazin-1-yl)-acetonitrile | N1=C(C=CC=C1)CN1CCN(CC1)CC#N | C12H16N4
